US08124641B2
To a solution of {(R)-4-[(3-isopropenyl-5-trifluoromethyl-benzenesulfonyl)-methyl-amino]-4,5,6,7-tetrahydro-indazol-1-yl}-acetic acid ethyl ester (70.7 mg, 0.15 mmol) in tetrahydrofuran (2 mL) was added a solution of diazomethane in diethyl ether (1M, 8 mL) slowly at 0° C. under an argon atmosphere, and then a portion of palladium acetate (5 mg) was added. After the mixture was stirred for 10 minutes, a second portion of palladium acetate (5 mg) was added and the mixture was stirred for another 20 minutes, followed by addition of a second portion of a solution of diazomethane in diethyl ether (1M, 5 mL). After being stirred at 0° C. for 2 hours under an argon atmosphere, the reaction mixture was then quenched by the addition of a few drops of acetic acid, and then filtered through a glass funnel and concentrated in vacuo. The residue was purified by flash column (gradient elution, 0-10% methanol in dichloromethane) to afford ((R)-4-{methyl-[3-(1-methyl-cyclopropyl)-5-trifluoromethyl-benzenesulfonyl]-amino}-4,5,6,7-tetrahydro-indazol-1-yl)-acetic acid ethyl ester (74.5 mg, 99%) as a colorless semisolid. MS cald. for C23H28F3N3O4S 499, obsd. (ESI+) [(M+H)+] 500.

reactant | {(R)-4-[(3-isopropenyl-5-trifluoromethyl-benzenesulfonyl)-methyl-amino]-4,5,6,7-tetrahydro-indazol-1-yl}-acetic acid ethyl ester | 0.15 mmol, 70.7 mg | C(C)OC(CN1N=CC=2[C@@H](CCCC12)N(C)S(=O)(=O)C1=CC(=CC(=C1)C(F)(F)F)C(=C)C)=O | C22H26F3N3O4S
reactant | diazomethane | [N+](=[N-])=C | CH2N2
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
solvent | diethyl ether | 1M, 8 mL | C(C)OCC | C4H10O
solvent | diethyl ether | 1M, 5 mL | C(C)OCC | C4H10O
catalyst | palladium acetate | 5 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | palladium acetate | 5 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | ((R)-4-{methyl-[3-(1-methyl-cyclopropyl)-5-trifluoromethyl-benzenesulfonyl]-amino}-4,5,6,7-tetrahydro-indazol-1-yl)-acetic acid ethyl ester | 74.5 mg, 99% | C(C)OC(CN1N=CC=2[C@@H](CCCC12)N(S(=O)(=O)C1=CC(=CC(=C1)C(F)(F)F)C1(CC1)C)C)=O | C23H28F3N3O4S
